US07629338B2
Step A. Dimethyl 6-cyanopyridine-2,3-dicarboxylate
To a solution of dimethyl pyridine-2,3-dicarboxylate 1-oxide [Niiyami et al. (2002) Bioorg. Med. Chem. Lett. 12, 3041] (15.3 g, 72.5 mmol) and trimethylsilyl cyanide (15.7 mL, 117 mmol) in DME (161 mL) was added dimethylcarbamoyl chloride (10.5 mL, 114 mmol). The reaction mixture was heated at reflux for 72 h, and then cooled to 0° C. Saturated aqueous NaHCO3 (800 mL) was added slowly and the quenched mixture was extracted with EtOAc (2×1 L). The combined organic extracts were washed with brine (200 mL), dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by silica gel chromatography, eluting with a gradient of hexane:EtOAc—100:0 to 50:50, to give the title compound. MS: m/z=221 (M+1).

reactant | dimethyl pyridine-2,3-dicarboxylate 1-oxide | 72.5 mmol, 15.3 g | [N+]1(=C(C(=CC=C1)C(=O)OC)C(=O)OC)[O-] | C9H9NO5
reactant | trimethylsilyl cyanide | 117 mmol, 15.7 mL | C[Si](C)(C)C#N | C4H9NSi
reactant | dimethylcarbamoyl chloride | 114 mmol, 10.5 mL | CN(C(=O)Cl)C | C3H6ClNO
reactant | NaHCO3 | 800 mL | C(=O)(O)[O-].[Na+]
solvent | DME | 161 mL | COCCOC | C4H10O2
product | Dimethyl 6-cyanopyridine-2,3-dicarboxylate | C(#N)C1=CC=C(C(=N1)C(=O)OC)C(=O)OC | C10H8N2O4
